US08461158B2
A mixture of 2-(difluoromethyl)-4-methoxy-1-{4-(4-morpholinyl)-6-[1-(vinylsulfonyl)-4-piperidinyl]-1,3,5-triazin-2-yl}-1H-benzimidazole (59 mg, 0.11 mmol) and 40% aqueous dimethylamine (5 mL) in THF (25 mL) was stirred at room temperature for 15 min. The solvent was removed under vacuum and the residue was diluted with water to give 63 mg (99% yield) of N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidinyl}sulfonyl)ethyl]-N,N-dimethylamine: 1H NMR (CDCl3) δ 7.99 (d, J=7.9 Hz, 1H), 7.55 (t, JHF=53.6 Hz, 1H), 7.39 (t, J=8.3 Hz, 1H), 6.85 (d, J=7.9 Hz, 1H), 4.06 (s, 3H), 4.02-3.89 (m, 6H), 3.85-3.78 (m, 4H), 3.14-3.11 (m, 2H), 2.97 (dt, J=12.2, 2.6 Hz, 2H), 2.84-2.77 (m, 3H), 2.28 (s, 6H), 2.17 (br dd, J=13.2, 2.6 Hz, 2H), 2.00 (ddd, J=25.1, 11.8, 4.1 Hz, 2H).

reactant | 2-(difluoromethyl)-4-methoxy-1-{4-(4-morpholinyl)-6-[1-(vinylsulfonyl)-4-piperidinyl]-1,3,5-triazin-2-yl}-1H-benzimidazole | 0.11 mmol, 59 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C1CCN(CC1)S(=O)(=O)C=C)C=CC=C2OC)F | C23H27F2N7O4S
reactant | dimethylamine | 5 mL | CNC | C2H7N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidinyl}sulfonyl)ethyl]-N,N-dimethylamine | 63 mg, 99% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C1CCN(CC1)S(=O)(=O)CCN(C)C)C=CC=C2OC)F | C25H34F2N8O4S
